Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
All allergies / adverse drug reactions previously recorded have 
been deleted
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ ex lap, mesh excision, Exploratory laparotomy with left 
inguinal hernia 

 
History of Present Illness:
HPI: Pt with multiple prior left inguinal hernia repairs woke up 
from 
sleep at midnight with excruciating sharp pain in his lower abd. 
The 
pain is intermittent, recurring every ___ mins with a duration 
of 
~2mins each time. Pt hasn't had a BM in 4 days and in the days 
prior his stools were smaller in volume. The pt also complains 
of 
abd distention, nausea, and vomitx1 in the ED. Note that last 
week the 
pt introduced raisins into his diet and had 2 episodes diarrhea 
prior 
to his decreased in BMs. Note the pt also notes decreased UOP 
today. 
When he did urinate his urine was dark yellow-brown.

 
Past Medical History:
Gout  
kidney stones  
HTN  
BNPH - last PSA believes with Dr. ___ on ___  
sinusitis  
Surgery:  Per patient, left inguinal hernia repair in the 
distant past followed by laparoscopic left inguinal hernia 
(done by by Dr. ___, who is out of town)several years ago. 


 
Social History:
___
Family History:
No prostate, renal, or bladder cancer 
 
Physical Exam:
___:  Physical examination upon discharge:

VS: 98.9  HR 107  BP 163/97  18  100RA
General: NAD
Heart: RRR, no m/r/g
Lungs: CTAB
Abd: hyperactive bowel sounds, distended, tympanitic, firm,
tender to palpation in lower abd in the midline and the RLQ
Pelv: hernia visualized in L inguinal region
Ext: wwp, no c/c/e

 
Pertinent Results:
___ 05:17AM BLOOD WBC-10.3# RBC-4.44* Hgb-14.1 Hct-42.3 
MCV-95 MCH-31.7 MCHC-33.3 RDW-13.2 Plt ___
___ 04:59AM BLOOD WBC-5.1 RBC-4.22* Hgb-13.3* Hct-39.4* 
MCV-94 MCH-31.6 MCHC-33.8 RDW-13.2 Plt ___
___ 07:35PM BLOOD WBC-9.6# RBC-5.23 Hgb-16.4# Hct-48.6# 
MCV-93 MCH-31.3 MCHC-33.7 RDW-13.4 Plt ___
___ 05:17AM BLOOD Plt ___
___ 05:17AM BLOOD Glucose-92 UreaN-17 Creat-1.5* Na-140 
K-4.5 Cl-103 HCO3-25 AnGap-17
___ 04:59AM BLOOD Glucose-76 UreaN-13 Creat-1.4* Na-141 
K-4.7 Cl-107 HCO3-27 AnGap-12
___ 05:17AM BLOOD Calcium-8.1* Phos-4.4# Mg-1.9
___ 05:04AM BLOOD Calcium-8.0* Phos-3.5 Mg-2.0
___ 05:26AM BLOOD Lactate-1.1

___:  X-ray of the abdomen:  

IMPRESSION:  Abundant stool in the right colon with areas of 
dilated colon with relative paucity of gas in the distal 
descending colon/sigmoid, underlying large bowel obstruction may 
be present.  CT pending.

___:  EKG:  

Sinus rhythm with a ventricular premature beat. Since the 
previous tracing  of ___ ventricular premature beat is new

___:  cat scan of abdomen and pelvis:

  
IMPRESSION: 
1.  Left inguinal hernia with incarcerated sigmoid colon, 
resulting in early high-grade closed loop obstruction. 
2.  Benign prostatic hypertrophy with bladder outlet 
obstruction. 

___:  chest x-ray:

IMPRESSION:  Normal chest findings identified on single AP chest 
views.
  

  
 
  

 
Brief Hospital Course:
The patient was admitted to the acute care service with 
abdominal pain.  Upon admission, he was made NPO, given 
intravenous fluids, and underwent imaging. On cat scan of the 
abdomen he was reported to have a left inguinal hernia with an 
incarcerated sigmoid colon, resulting in a early high-grade 
closed loop obstruction. The hernia was reduced in the emergency 
room with immediate relief of pain.  He was then observed for 
the possible evolution of an acute abdomen which he did not 
develope. Because of the severity of the recurrence, he was then 
taken to the operating room for an exploratory laparotomy, 
excision of the prior mesh (which was adherent to the sigmoid 
colon and the iliac artery, and repair of the left inguinal 
hernia repair by a retroperitoneal route.  His post-operative 
recovery was swift. He developed some wound erythema that was 
treated with Kefzol afer a CT revealed no fluid collections.
  
 
Medications on Admission:
allopurinol ___ daily  
dutasteride .5mg daily  
HCTZ 25mg daily  
losartan 100 mg daily  
OTC vitamins  

 
Discharge Medications:
1. dutasteride *NF* 0.5 mg Oral Daily Reason for Ordering: Wish 
to maintain preadmission medication while hospitalized, as there 
is no acceptable substitute drug product available on formulary.
2. dutasteride *NF* 0.5 mg Oral Daily Reason for Ordering: Wish 
to maintain preadmission medication while hospitalized, as there 
is no acceptable substitute drug product available on formulary.
3. dutasteride *NF* 0.5 mg Oral Daily Reason for Ordering: Wish 
to maintain preadmission medication while hospitalized, as there 
is no acceptable substitute drug product available on formulary.
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Losartan Potassium 100 mg PO DAILY 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
7. Tamsulosin 0.4 mg PO HS 
8. Docusate Sodium 100 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
recurrent left inguinal hernia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with lower abdominal pain.  
You were found to have a left inguinal heria. You were taken to 
the operating room for hernia repair.  You are recovery nicely 
from the surgery and you are preparing for discharge home with 
the following instructions:    
 
Followup Instructions:
___